US09359362B2
Ethyl 2-[(benzyloxy)carbonyl]amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
Under an atmosphere of argon protective gas, ethyl 2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate (130 mg, 278 μmol) was dissolved in abs. pyridine (3.6 ml). At 0° C., benzyl chloroformate (379 mg, 2.2 mmol, 8 eq.) was added in four portions and the mixture was stirred for 12 h with warming to RT. Once HPLC analysis showed substantial conversion, the reaction mixture was concentrated under reduced pressure, and the residue was taken up in acetonitrile, acidified with 1 N hydrochloric acid and then purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (146.3 mg, 87% of theory).

reactant | ethyl 2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | 278 μmol, 130 mg | NC1=NN2C(N(C(=C(C2C2=CC=C(C=C2)C#N)C(=O)OCC)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C23H19F3N6O2
reactant | benzyl chloroformate | 2.2 mmol, 379 mg, 8 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | pyridine | 3.6 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-[(benzyloxy)carbonyl]amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | C(C1=CC=CC=C1)OC(=O)NC1=NN2C(N(C(=C(C2C2=CC=C(C=C2)C#N)C(=O)OCC)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C31H25F3N6O4
